US03987160
To a stirred solution of sodium (1.15 g.) in dry ethanol (20 ml.) was added ethyl cyanoacetate (1.8 ml.) followed after 15 minutes by isobutyramidine sulphate (2.25 g.). The mixture was refluxed for 20 hours, evaporated to dryness, the residue triturated with water (30 ml.) and the pH adjusted to 6 by the addition of hydrochloric acid. After cooling to 0° C, 4-amino-2-isopropylpyrimid-6-one (1.7 g.), m.p. 248°-250° C, was filtered off and recrystallised from ethanol to give 4-amino-2-isopropylpyrimid-6-one (0.95 g.), m.p. 254° C.

reactant | sodium | 1.15 g | [Na] | Na
reactant | ethyl cyanoacetate | 1.8 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | isobutyramidine sulphate | 2.25 g | S(=O)(=O)(O)O.C(C(C)C)(=N)N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-amino-2-isopropylpyrimid-6-one | 0.95 g | NC=1N=C(NC(C1)=O)C(C)C | C7H11N3O
